US08735379B2
To a mixture of butane-2,3-diamine (4.8 g, 54.5 mmol) in water (50 mL) containing bromocresol green as indicator was slowly added a solution of methane sulfonic acid (10.46 g) in water (50 mL) until a blue to yellow color transition was observed. The mixture was diluted with ethanol (100 mL) and to it was added a solution of Cbz-Cl (7.61 g, 45.5 mmol) in DME (50 mL) and aqueous AcOK (w/v=50%) to maintain the pale-green color. The reaction mixture was stirred (RT, 1 h), concentrated under reduced pressure, treated with water and filtered. The solution was washed with toluene, basified with 40% aqueous NaOH and extracted with toluene (4×100 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to afford benzyl 3-aminobutan-2-ylcarbamate (4.2 g, 35%) as a colorless oil. Mass calculated for C12H18N2O2=222.28. found: [M−H]+=221.2.

reactant | butane-2,3-diamine | 54.5 mmol, 4.8 g | CC(C(C)N)N | C4H12N2
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | methane sulfonic acid | 10.46 g | CS(=O)(=O)O | CH4O3S
reactant | Cbz-Cl | 45.5 mmol, 7.61 g | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | AcOK | C(=O)(C)O[K]
product | benzyl 3-aminobutan-2-ylcarbamate | 4.2 g, 35% | NC(C(C)NC(OCC1=CC=CC=C1)=O)C | C12H18N2O2
